US05776931
Preparation of 2-benzylnaphth[2,3-d]imidazole
A 1M solution of benzyl cyanide in anhydrous methanol is treated with hydrogen chloride gas at 0° C. for about thirty minutes. The mixture is stirred for two hours at 0° C. and then a 1M solution of 2,3-diaminonaphthalene is added and the resulting solution is stirred at 0° C. The progress of the reaction is monitored by thin layer chromatography. The reaction mixture is then poured into water. The unreacted nitrile is extracted with ethyl acetate. The aqueous layer is neutralized with 1N sodium hydroxide. The organic fraction is extracted with ethyl acetate and condensed. The desired title product is recrystallized from methanol/water.

reactant | benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
reactant | hydrogen chloride | Cl | ClH
reactant | 2,3-diaminonaphthalene | NC1=CC2=CC=CC=C2C=C1N | C10H10N2
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-benzylnaphth[2,3-d]imidazole | C(C1=CC=CC=C1)C=1NC2=C(N1)C=C1C=CC=CC1=C2 | C18H14N2
